US08497264B2
N-bromosuccinimide (8.29 g, 46.6 mmol) was added to a solution of 2-fluoro-6-(neopentyloxy)pyridine (7.11 g, 38.8 mmol) in acetonitrile (80 mL) at rt. The reaction mixture was heated to 70° C. overnight. The reaction mixture was cooled to rt and the solvent was removed under reduced pressure. The residue was dissolved in DCM and washed with water. The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (100% hexanes) to obtain 3-bromo-2-fluoro-6-(neopentyloxy)pyridine (5.27 g, 20.11 mmol) as a white solid.

reactant | N-bromosuccinimide | 46.6 mmol, 8.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-fluoro-6-(neopentyloxy)pyridine | 38.8 mmol, 7.11 g | FC1=NC(=CC=C1)OCC(C)(C)C | C10H14FNO
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 3-bromo-2-fluoro-6-(neopentyloxy)pyridine | 20.11 mmol, 5.27 g | BrC=1C(=NC(=CC1)OCC(C)(C)C)F | C10H13BrFNO
